US07241792B2
To a solution of tetramethylpiperidine (0.624 ml, 3.7 mmol) in MTBE (5 mL) was added n-butyllithium 2.5M hexanes (1.5 ml, 3.7 mmol) at −78° C. The solution was slowly warmed to approx 0° C. and was added via cannula to a solution of 2-(4-cyclopropyl-but-2-enyl)-oxirane (0.288 g, 1.898 mmol) in MTBE (2 mL) over 10 min at 0° C. The mixture was allowed to warm to rt, stirred overnight, washed with 1N HCl (2×), and brine. The organics were dried over MgSO4, filtered, and concentrated to give 6-cyclopropylmethyl-bicyclo[3.1.0]hexan-2-ol as clear oil; 1H NMR (400 MHz, CDCl3): δ 4.19 (d, 1H, J=5.5 Hz), 2.15–2.06 (m, 1H), 1.75 (dd, 1H, J1=11.0 Hz, J2=9.7 Hz), 1.69–1.52(m, 4H), 1.42 (dd, 1H, J1=8.1 Hz, J2=6.2 Hz), 0.98–0.87 (m, 2H), 0.75–0.68 (m, 1H), 0.46–0.41 (m, 2H), 0.03 (dd, 2H, J1=9.1 Hz, J2=4.7 Hz).

reactant | tetramethylpiperidine | 3.7 mmol, 0.624 ml | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | n-butyllithium | 3.7 mmol, 2.5M, 1.5 ml | C(CCC)[Li]
reactant | 2-(4-cyclopropyl-but-2-enyl)-oxirane | 1.898 mmol, 0.288 g | C1(CC1)CC=CCC1OC1 | C9H14O
solvent | MTBE | 5 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 2 mL | CC(C)(C)OC | C5H12O
product | 6-cyclopropylmethyl-bicyclo[3.1.0]hexan-2-ol | C1(CC1)CC1C2CCC(C12)O | C10H16O
